US05256673
A mixture of 4.04 g of 3-[4-(4-p-methoxyphenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid and 3.5 g of pyridine hydrochloride is stirred for 3 hours at 160°. Working up in the customary manner gives 3-[4-(4-p-hydroxyphenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid.

reactant | 3-[4-(4-p-methoxyphenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid | 4.04 g | COC1=CC=C(C=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | C25H28N2O3
reactant | pyridine hydrochloride | 3.5 g | Cl.N1=CC=CC=C1
product | 3-[4-(4-p-hydroxyphenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid | OC1=CC=C(C=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | C24H26N2O3
